US05258399
A solution of N-methyl-N-(4-tolyl)methanesulphonamide (0.31 g, 1.54 mmol), N-bromosuccinimide (0.28 g, 1.55 mmol) and 2,2'-azobisisobutyronitrile (20 mg) in carbon tetrachloride (20 ml) was refluxed for 2 hours. The mixture was then cooled to ambient temperature and filtered. The solvent was evaporated and the residue partitioned between ethyl acetate (50 ml) and water (50 ml), washed with brine (50 ml) and dried (MgSO4). The solvent was evaporated yielding N-(4-bromomethylphenyl)-N-methylmethanesulphonamide (0.24 g, 54%) which was used without further purification.

reactant | N-methyl-N-(4-tolyl)methanesulphonamide | 1.54 mmol, 0.31 g | CN(S(=O)(=O)C)C1=CC=C(C=C1)C | C9H13NO2S
reactant | N-bromosuccinimide | 1.55 mmol, 0.28 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | 20 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(4-bromomethylphenyl)-N-methylmethanesulphonamide | 0.24 g, 54% | BrCC1=CC=C(C=C1)N(S(=O)(=O)C)C | C9H12BrNO2S
